US05021421
Preparation of 4-phenyl-5,6,7,8-tetrahydro-2(1H)-quinolinone
A mixture of benzoylacetonitrile (25 g), cyclohexanone (25 g) and 75% polyphosphoric acid (250 g) is stirred at 50° C. for 30 minutes and further at 110° C. for 1.5 hour. After cooling, the reaction mixture is poured into ice-water and thereto is added diethyl ether (300 ml). The mixture is stirred and the precipitated crystals are collected by filtration. The crystals are recrystallized from N,N-dimethylformamide-ethanol to give the desired compound (27 g), m.p. 285°-288° C.

reactant | benzoylacetonitrile | 25 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | cyclohexanone | 25 g | C1(CCCCC1)=O | C6H10O
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 4-phenyl-5,6,7,8-tetrahydro-2(1H)-quinolinone | 27 g | C1(=CC=CC=C1)C1=CC(NC=2CCCCC12)=O | C15H15NO
